US07989461B2
A mixture of 3-methyl-4-(2-(methylamino)quinazolin-6-yl)-1,7-naphthyridin-8(7H)-one (0.400 g, 1.26 mmol) and phosphorous oxychloride (5.00 ml, 1.26 mmol) was heated to 100° C. After 3 hours, the volatiles were removed under vacuum. Residual phosphorous oxychloride was azeotroped with toluene. The resulting residue was dissolved in chloroform and washed with cold water. The organic layer was then washed (2×) with an aqueous saturated solution of sodium bicarbonate, then with water and then brine. The organic layer was then dried with sodium sulfate and purified by column chromatography on silica gel using a gradient of 50 to 100% EtOAc in hexanes to give 6-(8-chloro-3-methyl-1,7-naphthyridin-4-yl)-N-methylquinazolin-2-amine as a yellow solid. MS (M+H)+ 336.

reactant | 3-methyl-4-(2-(methylamino)quinazolin-6-yl)-1,7-naphthyridin-8(7H)-one | 1.26 mmol, 0.400 g | CC=1C=NC=2C(NC=CC2C1C=1C=C2C=NC(=NC2=CC1)NC)=O | C18H15N5O
reactant | phosphorous oxychloride | 1.26 mmol, 5.00 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 6-(8-chloro-3-methyl-1,7-naphthyridin-4-yl)-N-methylquinazolin-2-amine | ClC=1N=CC=C2C(=C(C=NC12)C)C=1C=C2C=NC(=NC2=CC1)NC | C18H14ClN5
